US05854277
Sodium iodide (8.9 g, 59.2 mol) and 4-phenyl-1-chlorobutane (5.0 g, 29.6 mol) were added to acetone (29.6 mL) at rt. The mixture was heated to 70° C. for 12 h. The resulting solution was gravity filtered to remove salts. The solvent was removed under reduced pressure and excess salts were dissolved in water (100 mL). Hexane (100 mL) was added to the aqueous mixture. The phases were separated and the organic phase was washed with saturated sodium bisulfite solution (3×50 mL), treated with decolorizing carbon, and gravity filtered. The organic layer was then dried (MgSO4), filtered, and concentrated in vacuo to afford 4-phenyl-1-iodobutane (6.94 g, 90%).

reactant | Sodium iodide | 59.2 mol, 8.9 g | [I-].[Na+]
reactant | 4-phenyl-1-chlorobutane | 29.6 mol, 5.0 g | C1(=CC=CC=C1)CCCCCl | C10H13Cl
solvent | acetone | 29.6 mL | CC(=O)C | C3H6O
product | 4-phenyl-1-iodobutane | 6.94 g, 90% | C1(=CC=CC=C1)CCCCI | C10H13I
